US05405851
A solution of diethyl (S)-2-(4-aminophthalimido)glutarate (10.5 g, 30.2 mmol) in ethanol (150 ml) was cooled in an acetonitrile/CO2 bath. Concentrated HCl (25 ml) was added followed by 30 mesh granular Zn (10.5 g, 0.161 mole) (Fisher) when the internal temperature had reached -40° C. The reaction mixture was stirred 1.5 hours at this temperature and a further 1 hour at -10° C. The excess of Zn was filtered from the solution, 10% palladium on carbon (1.0 g) was added, and the solution shaken under hydrogen at (30-50 psi) overnight. The catalyst was removed by filtration through celite and the filtrate concentrated in vacuo. The residue was made basic by the addition of saturated NaHCO3 solution (~300 ml), extracted with diethyl ether (3×100 ml), and the ether extracts were dried (K2CO3) and concentrated in vacuo. The residue was absorbed onto silica gel (15 g) and purified by chromatography on silica gel (400 g) eluting with ethyl acetate:methylene chloride (1:4) to give diethyl (S)-2-(5-amino-1-oxo-2-isoindolinyl)glutarate as a viscous oil (4.14 g). 1H NMR (DMSO-d6, 300 MHz) δ: 1.12 (t, J=7 Hz, 3H, 3H, ester CH3), 1.17 (t, J=7 Hz, 3H, ester CH3), 1.98-2.33 (m, 4H, glu CH2CH2), 3.92-4.03 (m, 2H, ester CH2), 4.11 (q, J=7 Hz, 2H, ester CH2), 4.26 (very strongly coupled AB pair, 2H, ArCH2N), 4.77-4.84 (m, 1H, glu CH), 5.83 (br s, 2H, NH2), 6.58-6.65 (m, 2H, Ar), 7.32 (d, J=8 Hz, 1H, Ar). Mass spectrum (CI-CH4): 335 (M+1, 100%). Anal. Calculated for C17H22N2O5 : C, 61.07; H, 6.63; N, 8.38. Found: C, 60.93; H, 6.71; H, 8.30.

reactant | diethyl (S)-2-(4-aminophthalimido)glutarate | 30.2 mmol, 10.5 g | NC=1C=C2C(C(=O)N(C2=O)[C@H](C(=O)OCC)CCC(=O)OCC)=CC1 | C17H20N2O6
reactant | HCl | 25 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Zn | 0.161 mole, 10.5 g | [Zn] | Zn
product | diethyl (S)-2-(5-amino-1-oxo-2-isoindolinyl)glutarate | 4.14 g | NC=1C=C2CN(C(C2=CC1)=O)[C@H](C(=O)OCC)CCC(=O)OCC | C17H22N2O5
